data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_631683_0,[C:1]([C:4]([C:5]([C:2]([H:15])([H:16])[H:17])[C:3]([N:6]([H:10])[H:11])=[O:8])[O:7][H:9])([H:12])([H:13])[H:14]>>[C:1]([C@:4]1([O:7][H:9])[C:5]([C:2]([H:15])([H:16])[H:17])=[C:3]([N:6]([H:10])[H:11])[O:8]1)([H:12])([H:13])[H:14],46.379780000004445
MR_62942_0,[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])/[C:4]([O:6][H:8])=[N:7]/[N:5]([H:9])[H:10])([H:11])([H:12])[H:16]>>[C:1](/[N:3]=[C:4](/[O:6][H:8])[N:7]([C:2]([H:13])([H:14])[H:15])[N:5]([H:9])[H:10])([H:11])([H:12])[H:16],71.97613249997687
MR_233402_0,[C:1]([C:2]1([C:4](=[C:5]([H:14])[H:15])[H:10])/[C:3](=[N:7]/[H:9])[N:6]1[H:8])([H:11])([H:12])[H:13]>>[C:1]([C:3](/[C:2]([C:4](=[C:5]([H:14])[H:15])[H:10])=[N:6]/[H:8])=[N:7]\[H:9])([H:11])([H:12])[H:13],65.38989249998366
MR_417115_1,[C:1]([C:4]([n:3]1[c:6]([H:10])[c:7]([H:11])[c:5]([C:2]([H:15])([H:16])[H:17])[n:8]1)=[O:9])([H:12])([H:13])[H:14]>>[C:1]([C:4]([n:8]1[n:3][c:6]([H:10])[c:7]([H:11])[c:5]1[C:2]([H:15])([H:16])[H:17])=[O:9])([H:12])([H:13])[H:14],42.39076250001702
MR_234192_0,[C:1]([C:4]([C:5]1([C:2]([H:14])([H:15])[H:16])[C:6]([C:3]([H:17])([H:18])[H:19])([H:10])[N:8]1[H:9])=[O:7])([H:11])([H:12])[H:13]>>[C:1](/[C:4](=[C:5]([C:2]([H:14])([H:15])[H:16])/[N:8]=[C:6](/[C:3]([H:17])([H:18])[H:19])[H:10])[O:7][H:9])([H:11])([H:12])[H:13],50.88334750001252
MR_454987_2,[C:1]([N:2]([H:9])[H:10])([C:3](=[O:7])[H:12])(/[C:4](=[N:6]/[H:11])[H:13])[O:5][H:8]>>[C:1]([N:2]([H:9])[H:10])([C:3](/[C:4](=[N:6]/[H:11])[H:13])([O:7][H:8])[H:12])=[O:5],29.4906175000564
MR_71827_1,[C:1]([N:3](/[C:4]([N:2]([N:5]([H:9])[H:10])[H:7])=[N:6]\[H:11])[H:8])([H:12])([H:13])[H:14]>>[C:1]([N:3](/[C:4]([N:2]([N:5]([H:8])[H:9])[H:7])=[N:6]\[H:11])[H:10])([H:12])([H:13])[H:14],62.83094749998824
MR_326222_2,[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:5](=[N:7]/[H:12])[H:13])([O:6][C:3]([N:4]([H:10])[H:11])=[O:8])[H:9]>>[C:1]1([C:2]([H:14])([H:15])[H:16])([H:9])[C:5]([N:7]([H:10])[H:12])([H:13])[N:4]([H:11])[C:3](=[O:8])[O:6]1,62.33271249999774
MR_280288_1,[C:1]1([C:2]([H:11])([H:12])[H:13])([H:9])[N:3]([H:7])[N:6]=[C:5]([H:10])[N:4]1[H:8]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([H:9])[N:3]([H:7])[N:6]1/[C:5](=[N:4]/[H:8])[H:10],68.57131749997691
MR_245494_0,[C:1]([C:4]([C:2]([H:15])([H:16])[H:17])=[C:6](/[C:3]([O:7][H:9])=[N:8]/[N:5]([H:10])[H:11])[H:12])([H:13])([H:14])[H:18]>>[C:1]([C:4]1([C:2]([H:15])([H:16])[H:17])[C:6]([H:12])=[C:3]([O:7][H:9])[N:8]1[N:5]([H:10])[H:11])([H:13])([H:14])[H:18],40.968220000006
MR_106034_1,[C:1](/[C:4]([N:3]([N:6][N:7][H:9])[H:8])=[C:5](\[C:2]([H:14])([H:15])[H:16])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[C:4](=[N:3]/[H:8])[C@@:5]([C:2]([H:14])([H:15])[H:16])(/[N:6]=[N:7]\[H:9])[H:10])([H:11])([H:12])[H:13],51.54536000005322
MR_425063_0,[C:1](/[C:3](=[N:2]/[N:4]([H:9])[H:10])[C:7]([N:5]([H:11])[H:12])(/[C:6](=[N:8]\[H:13])[H:14])[H:15])([H:16])([H:17])[H:18]>>[C:1](/[C:3]([N:2]([N:4]([H:9])[H:10])/[C:6](=[N:8]\[H:13])[H:14])=[C:7](\[N:5]([H:11])[H:12])[H:15])([H:16])([H:17])[H:18],62.07732000003617
MR_132355_0,[C@@:1]1([C:3]([H:14])([H:15])[H:16])([H:11])[C:4]([O:7][H:9])=[C:5]([O:8][H:10])[C:2]([H:12])([H:13])[O:6]1>>[C:1](\[C:3]([H:14])([H:15])[H:16])(=[C:4](/[C@@:5]1([O:8][H:10])[C:2]([H:12])([H:13])[O:6]1)[O:7][H:9])[H:11],44.57320749999994
MR_54242_0,[C:1](/[C:2]([N:3]([H:7])[H:8])=[N:5]/[O:4][H:6])([H:9])([H:10])[H:11]>>[C:1](=[C:2]([N:3]([H:7])[H:8])[N:5]([O:4][H:6])[H:11])([H:9])[H:10],63.30847499999536
MR_42967_0,[C:1]([C:3]1=[N:4][N:2]1[H:5])([H:6])([H:7])[H:8]>>[C:1]([C:3]1=[N:2][N:4]1[H:5])([H:6])([H:7])[H:8],34.7208299999955
MR_692712_1,[C:1]([C:2]([C:3](=[O:6])[H:8])=[O:5])([C:4](=[O:7])[H:9])([H:10])[H:11]>>[C:1]([C:2]([C:4](=[O:7])[H:9])=[O:5])([C:3](=[O:6])[H:8])([H:10])[H:11],73.08806250002306
MR_598009_0,[C:1]([C:3]([C:2]([N:4]([H:9])[H:10])([O:7][H:8])[H:12])=[C:5]([H:13])[H:14])(=[O:6])[H:11]>>[C:1]([C:3]([C:2]([N:4]([H:9])[H:10])=[O:7])=[C:5]([H:13])[H:14])([O:6][H:8])([H:11])[H:12],55.92217250002463
MR_213395_0,[C:1]([C:3]([N:2]([N:4]([H:8])[H:9])[H:7])=[O:6])([N:5]([H:10])[H:11])([H:12])[H:13]>>[C@@:1]([N:2]([N:4]([H:8])[H:9])[H:7])([C:3](=[O:6])[H:13])([N:5]([H:10])[H:11])[H:12],71.7075625000129
MR_155220_0,[C:1](/[C:7](=[C:6](\[N:2]([C:3]([N:5]([H:11])[H:12])=[O:8])[N:4]([H:9])[H:10])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:7]([C:3]([N:5]([H:11])[H:12])=[O:8])(/[C:6](=[N:2]/[N:4]([H:9])[H:10])[H:13])[H:14])([H:15])([H:16])[H:17],71.5845725000024
MR_419452_1,[C:1](/[C:3]([C:2]([H:12])([H:13])[H:14])=[N:6]/[O:5][H:8])([C:4](=[O:7])[H:9])([H:10])[H:11]>>[C:1](=[C:3]([C:2]([H:12])([H:13])[H:14])[N:6]([C:4](=[O:7])[H:9])[O:5][H:8])([H:10])[H:11],46.83032499997268
MR_245774_0,[C:1]([C:4]([N:3]([N:6]([H:11])[H:12])[H:10])=[O:9])(/[C:5]([C:2]([H:18])([H:19])[H:20])=[C:8](\[N:7]([H:13])[H:14])[H:17])([H:15])[H:16]>>[C:1]1([H:15])([H:16])[C:4](=[O:9])[C:5]1([C:2]([H:18])([H:19])[H:20])[C:8]([N:3]([N:6]([H:11])[H:12])[H:10])([N:7]([H:13])[H:14])[H:17],72.09912249998737
